US07410966B2
2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethanol
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 4-(2-hydroxyethoxy)benzaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-(2-hydroxyethoxy)benzaldehyde | OCCOC1=CC=C(C=O)C=C1 | C9H10O3
product | 2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethanol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCCO)C=C2 | C14H12BrN3O2
